US08232278B2
Synthesis of 2-acetamido-6-chloro-4-(2-methoxyethoxy)-pyrido[3,2-d]pyrimidine
5 mmol 2-acetamido-6-chloro-pyrido[3,2-d]pyrimidin-4(3H)-one (1.2 g) was reacted with 7.5 mmol 2-methoxyethanol (0.54 g) to give the pure title compound (0.2 g, yield: 14%) which was characterised as follows:

reactant | 2-acetamido-6-chloro-pyrido[3,2-d]pyrimidin-4(3H)-one | 5 mmol, 1.2 g | C(C)(=O)NC=1NC(C2=C(N1)C=CC(=N2)Cl)=O | C9H7ClN4O2
reactant | 2-methoxyethanol | 7.5 mmol, 0.54 g | COCCO | C3H8O2
product | 2-acetamido-6-chloro-4-(2-methoxyethoxy)-pyrido[3,2-d]pyrimidine | 0.2 g, yield: 14% | C(C)(=O)NC=1N=C(C2=C(N1)C=CC(=N2)Cl)OCCOC | C12H13ClN4O3
